US05175288
2-Amino-9-[1-(2,2-dimethyl-1,3-dioxane-4,6-dione-5-yl)-eth-2-yl]purine potassium salt
A mixture of 2-amino-6-Chloro-9-[1-(2,2-dimethyl-1,3-dioxane-4,6-dione-5-yl)eth-2-yl]purine potassium salt (200 mg, 0.53 mmol), ammonium formate (148 mg, 2.34 mmol) and 10% palladuim on charcoal (80 mg) in methanol (15 ml) was heated under reflux under dry nitrogen for 3 h. T.1.c. [chloroform/methanol (2:1)] showed one spot, rf=0.15. The mixture was filtered and the filtrate evaporated to leave a gum. The material was not purified further.

reactant | 2-amino-6-Chloro-9-[1-(2,2-dimethyl-1,3-dioxane-4,6-dione-5-yl)eth-2-yl]purine potassium salt | 0.53 mmol, 200 mg | [K].NC1=NC(=C2N=CN(C2=N1)CCC1C(OC(OC1=O)(C)C)=O)Cl
reactant | ammonium formate | 2.34 mmol, 148 mg | C(=O)[O-].[NH4+]
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | methanol | 15 ml | CO | CH4O
product | 2-Amino-9-[1-(2,2-dimethyl-1,3-dioxane-4,6-dione-5-yl)-eth-2-yl]purine potassium salt | [K].NC1=NC=C2N=CN(C2=N1)CCC1C(OC(OC1=O)(C)C)=O | InChI=1S/C13H15N5O4.K/c1-13(2)21-10(19)7(11(20)22-13)3-4-18-6-16-8-5-15-12(14)17-9(8)18;/h5-7H,3-4H2,1-2H3,(H2,14,15,17);
